US04138555
(a) Diphenylmethyl (6R,7R)-7-(Thien-2-ylacetamido)-3-trichloroacetylcarbamoyloxymethylceph-3-em-4-carboxylate
Trichloroacetyl isocyanate (13.2 g, 70 mmole) was added to a stirred suspension of diphenylmethyl (6R,7R)-3-hydroxymethyl-7-(thien-2-ylacetamido)ceph-3-em-4 carboxylate (26.0 g, 50 mmole) in anhydrous acetone (600 ml) at 20°. The solid soon dissolved and after the mixture had been stirred at 20° for 1 hour it was chilled for 1 hour and the resulting solid was filtered off and washed with ether to give the title compound (33.1 g, 93%), m.p. 183° to 184°; [α]D21 + 24° (c 0.95 in DMSO); λinf.EtOH 235 nm (ε 14,500) and λinf.EtOH 256 nm (ε 8,820).

reactant | Trichloroacetyl isocyanate | 70 mmole, 13.2 g | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | diphenylmethyl (6R,7R)-3-hydroxymethyl-7-(thien-2-ylacetamido)ceph-3-em-4 carboxylate | 50 mmole, 26.0 g | OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC=2SC=CC2)=O)=O | C27H24N2O5S2
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | Diphenylmethyl (6R,7R)-7-(Thien-2-ylacetamido)-3-trichloroacetylcarbamoyloxymethylceph-3-em-4-carboxylate | 33.1 g, 93% | S1C(=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(NC(C(Cl)(Cl)Cl)=O)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H24Cl3N3O7S2
